US04981992
In a 100 ml-volume stainless steel autoclave whose atmosphere had been displaced with nitrogen was added a solution of 2.31 g (10 mmole) of ethyl 2-(N-carboethoxyamino)methyl-3-oxobutanoate and 84.5 mg (0.05 mmole) of Ru2Cl4 ((+)-BINAP)2NEt3 in 18 ml of methylene chloride, and a reaction was conducted at 45° C. under a hydrogen pressure of 75 kg/cm2 for 20 hours. The reaction mixture was taken out and concentrated under reduced pressure of 20 mmHg. The concentrate was purified by silica gel chromatography using a 8/2 (by volume) mixture of hexane and isopropanol as an eluent to obtain 1.63 g (yield: 70%) of ethyl (2S, 3R)-2-(N-carboethoxyamino)methyl-3-hydroxybutanoate having an optical purity of 90 %ee as determined in the same manner as in Example 2, except for using a 1000:100:1 (by volume) mixture of hexane, tetrahydrofuran and methanol as an eluent.

reactant | ethyl 2-(N-carboethoxyamino)methyl-3-oxobutanoate | 10 mmole, 2.31 g | C(=O)(OCC)NCC(C(=O)OCC)C(C)=O | C10H17NO5
solvent | methylene chloride | 18 ml | C(Cl)Cl | CH2Cl2
product | ethyl (2S, 3R)-2-(N-carboethoxyamino)methyl-3-hydroxybutanoate | 1.63 g, yield: 70% | C(=O)(OCC)NC[C@H](C(=O)OCC)[C@@H](C)O | C10H19NO5
